US04220647
A mixture of 1-(N-benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dibenzyloxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.1 g), acetic acid (11 ml) and conc. hydrochloric acid (11 ml) was heated for 2 hours at 100° C. The reaction mixture was concentrated to dryness under reduced pressure and the residue was washed with ethyl acetate and ether and pulverized to give crude 1-(p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. The product was converted into its p-toluenesulfonate and then again converted into its hydrochloride to give a pure product, mp 91° to 93° C. The product was identified by means of comparison with an authentic sample prepared by another process by its infrared absorption spectrum and nuclear magnetic resonance spectrum.

reactant | 1-(N-benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dibenzyloxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.1 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)Cl)CC1NCCC2=CC(=C(C=C12)OCC1=CC=CC=C1)OCC1=CC=CC=C1
reactant | hydrochloric acid | 11 ml | Cl | ClH
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | 1-(p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C(NCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H17ClN2O2.ClH/c17-11-1-3-12(4-2-11)19-9-14-13-8-16(21)15(20)7-10(13)5-6-18-14;/h1-4,7-8,14,18-21H,5-6,9H2;1H
